US05962458
A solution of 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (400 mg, 1.06 mmol), (prepared as described for the starting material in Example 1), 4-chloromethyl-2-methylthiazole hydrochloride (390 mg, 2.12 mmol), potassium carbonate (438 mg) and potassium iodide (40 mg) in DMF (15 ml) was heated at 60° C. for 15 hours. After cooling to ambient temperature the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was diluted with methanol (10 ml) and 2M sodium hydroxide (2 ml) was added. After stirring for 1 hour, the reaction mixture was diluted with water (20 ml) and 2M hydrochloric acid (3 ml) was added. The resulting solid was filtered off, washed with water and dried under vacuum to give 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-(2-methylthiazol-4-ylmethoxy) quinazoline hydrochloride (300 mg, 59%).

reactant | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 1.06 mmol, 400 mg | Cl.C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 2.12 mmol, 390 mg | Cl.ClCC=1N=C(SC1)C
reactant | potassium carbonate | 438 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 40 mg | [I-].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-(2-methylthiazol-4-ylmethoxy) quinazoline hydrochloride | 300 mg, 59% | Cl.OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC=2N=C(SC2)C)C=CC1C | InChI=1S/C21H20N4O3S.ClH/c1-12-4-5-14(6-18(12)26)25-21-16-7-19(27-3)20(8-17(16)22-11-23-21)28-9-15-10-29-13(2)24-15;/h4-8,10-11,26H,9H2,1-3H3,(H,22,23,25);1H
